US05910498
Ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate
To 20 ml of dichloroethane and 10 ml of formic acid were added 2 g of ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate and 200 mg of 10% palladium on carbon. Under a hydrogen atmosphere, the solution was stirred at room temperature for 3 hours and after addition of acetic anhydride, further stirred overnight. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. Diethyl ether was added to the residue whereupon the solid was collected by filtration and washed with ethanol and diethyl ether to give 1.9 g of the title compound.

reactant | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
reactant | ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)[N+](=O)[O-])F)F)C(=O)OCC)=O)F)F | C18H9ClF4N2O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | Ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.9 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)NC=O)F)F)C(=O)OCC)=O)F)F | C19H11ClF4N2O4
